US05686426
(2S,3R,4E)-2-Hexadecanoylamino-3-benzoyloxy-1-(4,6-di-O-tert-butyloxycarbonylmethyl-2,3-di-O-benzyl-α-D-galactopyranosyloxy)-4-octadecene
Ethyl 2,3-di-O-benzyl-4,6-di-O-tert-butyloxycarbonylmethyl-1-thio-β-D-galactopyranoside (0.555 g, 0.88 mmol) and (2S,3R,4E)-2-azido-3-benzoyloxy-4-octadecenol (0.239 g, 0.55 mmol) were reacted by the general procedure as described in Example 1-D using methylene chloride/benzene (1:1) as solvents instead of dioxane and afforded the α-anomer (0.174 g, 31%) and the β-anomer (0.365 g, 66%) of the title compound as yellow oils.

reactant | Ethyl 2,3-di-O-benzyl-4,6-di-O-tert-butyloxycarbonylmethyl-1-thio-β-D-galactopyranoside | 0.88 mmol, 0.555 g | C(C1=CC=CC=C1)O[C@H]1[C@H](SCC)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC(=O)OC(C)(C)C)COCC(=O)OC(C)(C)C | C34H48O9S
reactant | (2S,3R,4E)-2-azido-3-benzoyloxy-4-octadecenol | 0.55 mmol, 0.239 g | N(=[N+]=[N-])[C@@H](CO)[C@@H](\C=C\CCCCCCCCCCCCC)OC(C1=CC=CC=C1)=O | C25H39N3O3
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | methylene chloride benzene | C(Cl)Cl.C1=CC=CC=C1
product | (2S,3R,4E)-2-Hexadecanoylamino-3-benzoyloxy-1-(4,6-di-O-tert-butyloxycarbonylmethyl-2,3-di-O-benzyl-α-D-galactopyranosyloxy)-4-octadecene | 0.365 g, 66% | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](CO[C@@H]1[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@@H](OCC(=O)OC(C)(C)C)[C@H](O1)COCC(=O)OC(C)(C)C)[C@@H](\C=C\CCCCCCCCCCCCC)OC(C1=CC=CC=C1)=O | C73H113NO13
